US07491716B2
Add 100 mL ammonium hydroxide to a sealed tube containing 12.5 gm (90.21 mMol) 2-chloro-3-cyanopyridine. Seal the tube and heat the suspension at 120° C. for 6 hours. Cool the reaction mixture to room temperature and partition between ethyl acetate and saturated aqueous sodium bicarbonate. Extract the aqueous phase with ethyl acetate (3×100 mL) followed by 70:30 ethyl acetate:n-butanol (2×100 mL). Combine organic phases and concentrate under reduced pressure to provide 2-amino-3-cyanopyridine.

reactant | 2-chloro-3-cyanopyridine | 90.21 mMol, 12.5 gm | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
product | 2-amino-3-cyanopyridine | NC1=NC=CC=C1C#N | C6H5N3
